US05696118
Preparation of 3-nitro-4-valeramidobenzoic Acid Morpholide ([1]-(12)-1)
In tetrahydrofuran (800 ml), 3 -nitro-4-valeramidobenzoic acid ([1]-(11)-1) (20.0 g) was dissolved. Dicyclohexylcarbodiimide (17.1 g) and 1-hydroxybenzotriazole (11.2 g) were added to the solution, and the mixture was stirred at room temperature for 15 minutes. Morpholine (7.27 g) was further added to the solution. The mixture was stirred for 16 hours. After the insolubles were removed from the reaction solution, the solution was concentrated and dried. The crude product was dissolved in chloroform, and the insolubles were removed, and the solution was purified by silica gel column chromatography (Kieselgel 60=400 g, chloroform/methanol=30/1) to obtain the compound ([1]-(12)-1) (22.95 g) as yellow needle crystals.

reactant | 3 -nitro-4-valeramidobenzoic acid | 20.0 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1NC(CCCC)=O | C12H14N2O5
reactant | Dicyclohexylcarbodiimide | 17.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 11.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Morpholine | 7.27 g | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | 3-nitro-4-valeramidobenzoic Acid Morpholide | [N+](=O)([O-])C=1C=C(C(=O)N2CCOCC2)C=CC1NC(CCCC)=O | C16H21N3O5
